US03941846
To a solution of 0.91 gram of 1,5-dinitro-2-methyl-2-hexanol in 25 milliliters of benzene there was added 4.2 grams of alumina. The mixture was stirred for 24 hours, and the alumina was removed by filtration. After evaporation of the filtrate there was obtained 0.29 gram of 5-nitro-2-hexanone which was identified by infrared and proton magnetic resonance.

reactant | 1,5-dinitro-2-methyl-2-hexanol | 0.91 gram | [N+](=O)([O-])CC(CCC(C)[N+](=O)[O-])(O)C | C7H14N2O5
solvent | benzene | 25 milliliters | C1=CC=CC=C1 | C6H6
product | 5-nitro-2-hexanone | 0.29 gram | [N+](=O)([O-])C(CCC(C)=O)C | C6H11NO3
